Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Vaginal Bleeding

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p SVD of twins ___ presents after having 
increased bleeding this evening.  Pt reports that bleeding had 
initially decreased immediately post partum but over the past 
few days has increased.  This pm at approx 5pm pt passed approx 
quarter sized clot and has had to go through about 5pads since
then. Pt denies any dizziness but notes cramping abdominal pain. 
 She has had chills but no fevers.  Pt took temp at home and was 
98.9.  

 
Past Medical History:
None

 
Social History:
Married. + tob in the past.  Quit in ___.  No EtOH/drugs.

 
Physical Exam:
AVSS, afebrile
NAD
ABD: soft, NT, ND
Ext: no calf tenderness
 
Pertinent Results:
___ 05:47AM BLOOD WBC-7.5 RBC-3.33* Hgb-10.8* Hct-31.6* 
MCV-95 MCH-32.3* MCHC-34.0 RDW-13.9 Plt ___
___ 10:15AM BLOOD WBC-7.6 RBC-3.53* Hgb-11.2* Hct-32.9* 
MCV-93 MCH-31.8 MCHC-34.2 RDW-14.0 Plt ___
___ 09:30PM BLOOD WBC-10.8 RBC-3.63* Hgb-11.7* Hct-34.0* 
MCV-94 MCH-32.2* MCHC-34.4 RDW-13.9 Plt ___
___ 05:47AM BLOOD Plt ___
___ 10:15AM BLOOD Plt ___
___ 09:30PM BLOOD Plt ___
___ 05:47AM BLOOD UreaN-10 Creat-0.5
___ 10:15AM BLOOD Creat-0.5
___ 09:30PM BLOOD Creat-0.5
___ 05:47AM BLOOD UricAcd-5.2
___ 09:30PM BLOOD UricAcd-6.4*
 
Brief Hospital Course:
Briefly this is a ___ G3P2 SVD of twins with increased 
bleeding, low grade fever, and fundal tenderness who was 
admitted for presumed endometritis.    
. 
1. Endometritis: Patient was never febrile greater than 100.2 
but had significant uterine tenderness.  Patient was treated 
with ampicillin and gent for 24hours afebrile.  She was noted to 
have clot in her fundus with no vascularity during bedside 
ultrasound on admission.  Patient was treated with 800mcg 
buccally which helped her pass any remaining intrauterine tissue 
without complication.  Following cytotect treatment, patient had 
minimal bleeding.
.
2. Elevated BPs: On presentation to gyn triage pt denied any 
VC/scotoma or epigastric pain but did notes occassional HA.  PEC 
labs notable ALT 66, Cr 0.5, Uric acid 6.4.  BPs at the time 
were 137/92, 158/87.  Her blood pressures were trended and 
repeat labs were checked in the morning.  Her repeat labs were 
found to be stable.  However, on ___ the patient developed 
headache in the setting of blood pressure up to 181/96.  Patient 
was brought up to L&D for magnesium treatment and monitoring of 
BPs.  Patient did not require any other antihypertensives.  
Given severity of her headache, neurology was consulted to 
investigate possibility of PRES or sinus thrombus.  Pt underwent 
MRI/MRA/MRV which were all negative.  Headache resolved 
spontaneously as did patient's hypertension.  She was kept on 
Magnesium for 24hours.  Patient was then discharged home in good 
condition and normal blood pressures.  

 
Medications on Admission:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Endomyometritis
# Preeclampsia
# Severe Headache
# Postpartum

 
Discharge Condition:
Good

 
Discharge Instructions:
You were readmitted for endomyometritis and treated with 
antibiotics.  During your procedure you were diagnosed with 
preeclampsia and treated with magnesium. You had a severe 
headache and were evaluated by neurology. MRI was normal
 
Followup Instructions:
___